US07825160B2
Procedure as for example 110 replacing (5-benzyloxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid with 5-[4-(pyrrolidine-1-sulfonyl)-benzyloxy]-4′-trifluoromethyl-biphenyl-3-yl-acetic acid, itself made according to the procedure of example 9 replacing benzyl alcohol with 4-(pyrrolidine-1-sulfonyl)-benzyl alcohol, afforded 2-{5-[4-(pyrrolidine-1-sulfonyl)-benzyloxy]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid, LC method B, retention time 12.6 min.

reactant | (5-benzyloxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)CC(=O)O | C22H17F3O3
reactant | 5-[4-(pyrrolidine-1-sulfonyl)-benzyloxy]-4′-trifluoromethyl-biphenyl-3-yl-acetic acid | N1(CCCC1)S(=O)(=O)C1=CC=C(COC=2C=C(C=C(C2)C2=CC=C(C=C2)C(F)(F)F)CC(=O)O)C=C1 | C26H24F3NO5S
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | 4-(pyrrolidine-1-sulfonyl)-benzyl alcohol | N1(CCCC1)S(=O)(=O)C1=CC=C(CO)C=C1 | C11H15NO3S
product | 2-{5-[4-(pyrrolidine-1-sulfonyl)-benzyloxy]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid | N1(CCCC1)S(=O)(=O)C1=CC=C(COC=2C=C(C=C(C2)C2=CC=C(C=C2)C(F)(F)F)C(C(=O)O)CCC)C=C1 | C29H30F3NO5S
